US04225598
138 g of 2-cyclopropylamino-4,6-dichloro-s-triazine are added at a slightly elevated tmeperature and with vigorous stirring to a mixture of 675 ml of dioxane and 135 ml of ether. After cooling to room temperature, 101 ml of 25%, aqueous ammonia are added dropwise over a period of 20 minutes. The reaction mixture is heated to 50° C., stirred for 16 hours and then concentrated by evaporation under water jet vaccum. The dry riesidue is diluted with 500 ml. of water and after stirring for 1 hour at room temperature, the tiny white crystals formed are separated by filtering under suction and dried under water jet vacuum at 80° C. 217 g. of 2-cyclopropylamino-4-chloro-6-amino-s-triazine are obtained.

reactant | 2-cyclopropylamino-4,6-dichloro-s-triazine | 138 g | C1(CC1)NC1=NC(=NC(=N1)Cl)Cl | C6H6Cl2N4
reactant | dioxane | 675 ml | O1CCOCC1 | C4H8O2
reactant | ammonia | N | H3N
solvent | ether | 135 ml | CCOCC | C4H10O
product | 2-cyclopropylamino-4-chloro-6-amino-s-triazine | C1(CC1)NC1=NC(=NC(=N1)Cl)N | C6H8ClN5
